US04355037
A mixture of 105 g of 4-(2,4-dichlorobenzoyl)-1-formylpiperidine, 70 g of hydroxylamine hydrochloride, 135 g of ammonium acetate, 1.05 l of ethanol and 350 ml of water was stirred and heated at 130° for 40 hrs. The reaction mixture was evaporated and 2.0 l of water was added to the residue. The water was decanted from the oil and the oil was washed two times with 500 ml of water and dissolved in about 400 ml of dichloromethane. The insoluble material was collected. The dichloromethane extract was washed twice with 600 ml of water. The combined aqueous phases were made basic with potassium carbonate/water. The precipitate was filtered, washed with water and dried over phosphorus pentoxide in vacuo to yield 27.2 g (9.96%) of 4-(2,4-dichlorobenzoyl)piperidine oxime. The insoluble material was dissolved in hot water and made alkaline with potassium carbonate-water. The precipitate was filtered, washed with water and dried over phosporus pentoxide in vacuo. The solid was dissolved in 200 ml methanol and 2 ml of conc hydrochloric acid was added. After heating for 5 mins, the solution was filtered and evaporated in vacuo to dryness. The residue was recrystallized from methanol-ether to yield product as the hydrochloride, mp 284°.

reactant | 4-(2,4-dichlorobenzoyl)-1-formylpiperidine | 105 g | ClC1=C(C(=O)C2CCN(CC2)C=O)C=CC(=C1)Cl | C13H13Cl2NO2
reactant | hydroxylamine hydrochloride | 70 g | Cl.NO
reactant | ammonium acetate | 135 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 1.05 l | C(C)O | C2H6O
solvent | water | 350 ml | O | H2O
product | 4-(2,4-dichlorobenzoyl)piperidine oxime | 27.2 g, 9.96% | ClC1=C(C(C2CCNCC2)=NO)C=CC(=C1)Cl | C12H14Cl2N2O
